*****************************************************************
* INFINEON Power Transistors                                    *
* PSPICE Library for                                            *
*       OptiMOS 34V                                             *
* n-channel Transistors                                         *
* Version 210513                                                *
*                                                               *
*****************************************************************
*                                                               *
* The Simulation Model is subject to change without notice. In  *
* addition, models can be a useful tool in evaluating device    *
* performance, they cannot reflect the accurate device          *
* performance under all conditions, nor are they intended to    *
* replace bread boarding for final verification. Infineon       *
* therefore does not assume any warranty or liability           *
* whatsoever arising from their use. Infineon does not assume   *
* any warranty or liability for the values and functions of the *
* Simulation Model.                                             *
* The methods and results of the Simulation Model are to the    *
* best of our knowledge                                         *
* correct. However, the user is fully responsible to verify and *
* validate these results under the operating conditions and in  *
* the environment of its application. Infineon will not bear    *
* the responsibility arising out of or in connection with any   *
* malfunction of the Simulation Models.                         *
* Models provided by Infineon are not warranted by Infineon as  *
* completely and comprehensively representing all the           *
* specifications and operating characteristics of the           *
* semiconductor products to which these models relate. The      *
* models describe the characteristics of typical devices. In    *
* all cases, the current data sheet information for a given     *
* device is the conclusive design guideline and the only actual * 
* performance specification.                                    *
*                                                               *
*                                                               *
* This library contains models of the following INFINEON        *
* transistors:                                                  *
*                                                               *

*   OptiMOS 34V                                                 *
*    BSC0908NS     BSC0909NS     BSZ0909NS                      *
*                                                               *
*****************************************************************
* thermal nodes of level 3 models:                              *
*                                                               *
*  .SUBCKT BSC010NE2LS drain gate source Tj Tcase               *
*  Tj :    potential=temperature (in °C) at junction (typically *
*          not connected)                                       *
*  Tcase : node where the boundary contition - external heat    *
*          sinks etc - have to be connected (ideal heat sink    *
*          can be modeled by using a voltage source stating the *
*          ambient temperature in °C between Tcase and ground.  *
*                                                               *
*****************************************************************

.SUBCKT S4_34_h_var dd g s0 Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 Rm=1u

.PARAM  Fm=0.2       Fn=0.5
.PARAM  c=1.5125     Vth0=2.73   auth=2.35m
.PARAM  UT=100m      ab=20m      lB=-23       UB=39.4

.PARAM  b0=164       p0=7.71     p1=-33m      p2=54u

.PARAM  Rd=6.15m     nmu=3.21    Tref=298     T0=273       lnIsj=-25.6
.PARAM  ndi=1.1      Rdi=2.19m   nmu2=0.55    ta=3n        td=20n
.PARAM  Rf=0.722     nmu3=1.38

.PARAM  f1=210p      f2=680p     f3=950p      U0=12       nc=2    nd=1.3
.PARAM  g1=0.15      bb=1        remp=0.01p   f2r=400p
.PARAM  kbq=85.8u

.PARAM  Vmin=2.33     Vmax=3.13    dCmax=0.33
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  q0={b0*((T0/Tref)**nmu3)*a}
.PARAM  q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM  q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM  Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM  bm={c/((1/gmin-Rs)**2*Inn*a*(T0/Tref)**nmu3)}
.PARAM  bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)}
.PARAM  dC2={1+1.5*dCmax*limit(dC,0,1)}

.PARAM  Cox={f1*a*dC2}
.PARAM  Cox1={remp*SQRT(a)*dC2}
.PARAM  Cds0={(f2*a+f2r*SQRT(a))*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  dRdi={Rdi/a}

.FUNC  I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC  Ig(Uds,T,p,Uee)  {bet*(T0/T)**nmu3*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC J(d,g,T,da,s) 
+ {a*(s*(Ig(da,T,(p0+(p1+p2*T)*T)*kbq*T,g-Vth+auth*(T-Tref)+Fm*da**Fn+1*limit(-d,0,1))+exp(min(lB+(da-UB-ab*(T-Tref))/UT,25))))}

.FUNC  Idiode(Usd,Tj,Iss) {exp(min(log(Iss)+Usd/(ndi*kbq*Tj),7))-Iss}
.FUNC  Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),7))*(Tj/Tref)**3)}

E_Edg     d   ox  VALUE {max(V(d,g),-bb)-(1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-(1/(1+g1*bb))**(nc-1)))}
C_Cdg    ox    g  {Cox}
Vx        d   ox1 0
C_Cdg1   ox1   g  {Cox1}

E_Eds     d edep  VALUE {(V(d,s)-I(V_sense3)/Cds0)}
C_Cds  edep    s  {Cds0}

C_Cgs   g    s   {Cgs0}

G_chan    d    s VALUE={J(V(d,s),V(g,s),T0+limit(V(Tj),-200,300),abs(V(d,s)),sgn(V(d,s)))}
G_RMos   d1    d  VALUE={V(d1,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
V_sense  dd   d1  0
G_diode   s   d3  VALUE={Idiod(V(s,d3),T0+limit(V(Tj),-200,499))}
G_Rdio   d2   d1  VALUE={V(d2,d1)/(dRdi*((limit(V(Tj),-200,999)+T0)/Tref)**nmu2)}
V_sense2 d2   d3  0

L_L001    a    c  {td/(ta+td)}
R_R001    a    b  {1/ta}
V_sense3  c    0  0
E_E001    b    0  VALUE {I(V_sense2)}
E_E002    e    0  VALUE {Cds0*1/(1-nd)*U0**nd*(limit(U0+V(d1,s),0,2*UB))**(1-nd)}
R_R002    e    c  1
R_R003    a    0  500Meg

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  1k

Rmet      s    s0 {Rm}

G_TH      0   Tj  VALUE =
+{(LIMIT(I(V_sense2)*V(d1,s)+(V(s,s0)**2)/Rm+(I(V_sense)-I(V_sense2))*V(d1,d)+
+(I(V_sense)-I(V_sense2)-I(E_Edg)-I(Vx)-I(E_Eds))*V(d,s),-10k,100k))}

.ENDS

*********

.SUBCKT S4_34_h_var1 dd g s0 Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 Rm=1u

.PARAM  Fm=0.2       Fn=0.5
.PARAM  c=1.5125     Vth0=2.73   auth=2.35m
.PARAM  UT=100m      ab=20m      lB=-23       UB=39.4

.PARAM  b0=164       p0=7.71     p1=-33m      p2=54u

.PARAM  Rd=6.15m     nmu=3.21    Tref=298     T0=273       lnIsj=-25.6
.PARAM  ndi=1.1      Rdi=2.19m   nmu2=0.55    ta=3n        td=20n
.PARAM  Rf=0.722     nmu3=1.38

.PARAM  f1=210p      f2=680p     f3=950p      U0=12       nc=2    nd=1.3
.PARAM  g1=0.15      bb=1        remp=0.01p   f2r=400p
.PARAM  kbq=85.8u

.PARAM  Vmin=2.33     Vmax=3.13    dCmax=0.33
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  q0={b0*((T0/Tref)**nmu3)*a}
.PARAM  q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM  q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM  Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM  bm={c/((1/gmin-Rs)**2*Inn*a*(T0/Tref)**nmu3)}
.PARAM  bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)}
.PARAM  dC2={1+1.5*dCmax*limit(dC,0,1)}

.PARAM  Cox={f1*a*dC2}
.PARAM  Cox1={remp*SQRT(a)*dC2}
.PARAM  Cds0={(f2*a+f2r*SQRT(a))*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  dRdi={Rdi/a}

.FUNC  I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC  Ig(Uds,T,p,Uee)  {bet*(T0/T)**nmu3*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC  J(d,g,T,da) 
+ {a*(sgn(d)*Ig(da,T,(p0+(p1+p2*T)*T)*kbq*T,g-Vth+auth*(T-Tref)+Fm*da**Fn+1*limit(-d,0,1)))}

E_Edg     d   ox  VALUE {max(V(d,g),-bb)-(1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-(1/(1+g1*bb))**(nc-1)))}
C_Cdg    ox   g   {Cox}
C_Cdg1   d    g   {Cox1}

E_Eds    d    edep  VALUE {V(d,s)-1/(1-nd)*U0*((limit(1+V(d,s)/U0,0,2*UB))**(1-nd)-1)}
C_Cds  edep    s  {Cds0*0.99}

Dbody s dd dbody
.model dbody D (BV= {UB},CJO ={Cds0/100},TT ={ta},IS ={a*exp(lnIsj)} m={0.3} RS={dRdi} )

C_Cgs   g    s   {Cgs0}

G_chan    d    s VALUE={J(V(d,s),V(g,s),T0+limit(V(Tj),-200,300),abs(V(d,s)))}
G_RMos   dd    d  VALUE={V(dd,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}

R1        g    s  1G
Rd01      d    s  500Meg
Rd03     dd    d  1k
Rd04     g     d  500Meg

Rmet      s    s0 {Rm}  TC=4m

Rx Tj 0 1k

.ENDS

*********

.SUBCKT S4_34_m_var dd g s0 Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 Rm=1u

.PARAM  Fm=0.15      Fn=0.5      al=0.5
.PARAM  c=2.04       Vth0=2.355  auth=2.485m
.PARAM  UT=100m      ab=20m      lB=-23       UB=39.9

.PARAM  b0=229       p0=5.803     p1=-21.2m   p2=35.5u

.PARAM  Rd=6.3m      nmu=3.05    Tref=298     T0=273       lnIsj=-25.727
.PARAM  ndi=1.113    Rdi=2.1m    nmu2=0.70    ta=3n        td=20n
.PARAM  Rf=0.675     nmu3=1.5

.PARAM  f1=280p      f2=680p     f3=1.15n     U0=12        nc=2    nd=1.3
.PARAM  g1=0.15      bb=1        remp=0.01p   f2r=400p
.PARAM  kbq=85.8u

.PARAM  Vmin=1.855     Vmax=2.855    dCmax=0.33
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  q0={b0*((T0/Tref)**nmu3)*a}
.PARAM  q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM  q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM  Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM  bm={c/((1/gmin-Rs)**2*Inn*a*(T0/Tref)**nmu3)}
.PARAM  bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)}
.PARAM  dC2={1+1.5*dCmax*limit(dC,0,1)}

.PARAM  Cox={f1*a*dC2}
.PARAM  Cox1={remp*SQRT(a)*dC2}
.PARAM  Cds0={(f2*a+f2r*SQRT(a))*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  dRdi={Rdi/a}

.FUNC  I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC  Ig(Uds,T,p,Uee)  {bet*(T0/T)**nmu3*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC J(d,g,T,da,s) 
+ {a*(s*(Ig(da,T,(p0+(p1+p2*T)*T)*kbq*T,g-Vth+auth*(T-Tref)+Fm*da**Fn+1*limit(-d,0,1))+exp(min(lB+(abs(d)-UB-ab*(T-Tref))/UT,25))))}

.FUNC  Idiode(Usd,Tj,Iss) {exp(min(log(Iss)+Usd/(ndi*kbq*Tj),7))-Iss}
.FUNC  Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),7))*(Tj/Tref)**3)}

E_Edg     d   ox  VALUE {max(V(d,g),-bb)-(1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-(1/(1+g1*bb))**(nc-1)))}
C_Cdg    ox    g  {Cox}
Vx        d   ox1 0
C_Cdg1   ox1   g  {Cox1}

E_Eds     d edep  VALUE {(V(d,s)-I(V_sense3)/Cds0)}
C_Cds  edep    s  {Cds0}

C_Cgs   g    s   {Cgs0}

G_chan    d    s VALUE={J(V(d,s),V(g,s),T0+limit(V(Tj),-200,300),(SQRT(1+4*al*abs(V(d,s)))-1)/2/al,sgn(V(d,s)))}
G_RMos   d1    d  VALUE={V(d1,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
V_sense  dd   d1  0
G_diode   s   d3  VALUE={Idiod(V(s,d3),T0+limit(V(Tj),-200,499))}
G_Rdio   d2   d1  VALUE={V(d2,d1)/(dRdi*((limit(V(Tj),-200,999)+T0)/Tref)**nmu2)}
V_sense2 d2   d3  0

L_L001    a    c  {td/(ta+td)}
R_R001    a    b  {1/ta}
V_sense3  c    0  0
E_E001    b    0  VALUE {I(V_sense2)}
E_E002    e    0  VALUE {Cds0*1/(1-nd)*U0**nd*(limit(U0+V(d1,s),0,2*UB))**(1-nd)}
R_R002    e    c  1
R_R003    a    0  500Meg

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  1k

Rmet      s    s0 {Rm}

G_TH      0   Tj  VALUE =
+{(LIMIT(I(V_sense2)*V(d1,s)+(V(s,s0)**2)/Rm+(I(V_sense)-I(V_sense2))*V(d1,d)+
+(I(V_sense)-I(V_sense2)-I(E_Edg)-I(Vx)-I(E_Eds))*V(d,s),-10k,100k))}

.ENDS

*********

.SUBCKT S4_34_m_var1 dd g s0 Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 Rm=1u

.PARAM  Fm=0.15      Fn=0.5      al=0.5
.PARAM  c=2.04       Vth0=2.355  auth=2.485m
.PARAM  UT=100m      ab=20m      lB=-23       UB=39.9

.PARAM  b0=229       p0=5.803     p1=-21.2m   p2=35.5u

.PARAM  Rd=6.3m      nmu=3.05    Tref=298     T0=273       lnIsj=-25.727
.PARAM  ndi=1.113    Rdi=2.1m    nmu2=0.70    ta=3n        td=20n
.PARAM  Rf=0.675     nmu3=1.5

.PARAM  f1=280p      f2=680p     f3=1.15n     U0=12        nc=2    nd=1.3
.PARAM  g1=0.15      bb=1        remp=0.01p   f2r=400p
.PARAM  kbq=85.8u

.PARAM  Vmin=1.855     Vmax=2.855    dCmax=0.33
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  q0={b0*((T0/Tref)**nmu3)*a}
.PARAM  q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM  q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM  Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM  bm={c/((1/gmin-Rs)**2*Inn*a*(T0/Tref)**nmu3)}
.PARAM  bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)}
.PARAM  dC2={1+1.5*dCmax*limit(dC,0,1)}

.PARAM  Cox={f1*a*dC2}
.PARAM  Cox1={remp*SQRT(a)*dC2}
.PARAM  Cds0={(f2*a+f2r*SQRT(a))*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  dRdi={Rdi/a}

.FUNC  I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC  Ig(Uds,T,p,Uee)  {bet*(T0/T)**nmu3*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC  J(d,g,T,da) 
+ {a*(sgn(d)*Ig(da,T,(p0+(p1+p2*T)*T)*kbq*T,g-Vth+auth*(T-Tref)+Fm*da**Fn+1*limit(-d,0,1)))}

E_Edg     d   ox  VALUE {max(V(d,g),-bb)-(1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-(1/(1+g1*bb))**(nc-1)))}
C_Cdg    ox   g   {Cox}
C_Cdg1   d    g   {Cox1}

E_Eds    d    edep  VALUE {V(d,s)-1/(1-nd)*U0*((limit(1+V(d,s)/U0,0,2*UB))**(1-nd)-1)}
C_Cds  edep    s  {Cds0*0.99}

Dbody s dd dbody
.model dbody D (BV= {UB},CJO ={Cds0/100},TT ={ta},IS ={a*exp(lnIsj)} m={0.3} RS={dRdi} )

C_Cgs   g    s   {Cgs0}

G_chan    d    s VALUE={J(V(d,s),V(g,s),T0+limit(V(Tj),-200,300),(SQRT(1+4*al*abs(V(d,s)))-1)/2/al)}
G_RMos   dd    d  VALUE={V(dd,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}

R1        g    s  1G
Rd01      d    s  500Meg
Rd03     dd    d  1k
Rd04     g     d  500Meg

Rmet      s    s0 {Rm}  TC=4m

Rx Tj 0 1k

.ENDS

*********

.SUBCKT BSC0908NS drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 Ls=0.3n Ld=1n Lg=3n

.PARAM Rs=449u      Rg=3         Rd=50u       Rm=210u
.PARAM Inn=30       Unn=10       Rmax=8m      gmin=27

.PARAM act=1.13



X1  d1 g s Tj S4_34_h_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}
Rsb   source s1    10
Rga   gate   g1    10
Rdb   drain  d2    10




Rth1  Tj      t1              {23.29m+limit(Zthtype,0,1)*8.62m}
Rth2  t1      t2              {283.61m+limit(Zthtype,0,1)*104.96m}
Rth3  t2      t3              {971.74m+limit(Zthtype,0,1)*397.75m}
Rth4  t3      t4              {1.29+limit(Zthtype,0,1)*418.31m}
Rth5  t4      Tcase           {529.89m+limit(Zthtype,0,1)*171.83m}
Cth1  Tj      0               7.866u
Cth2  t1      0               49.331u
Cth3  t2      0               367.399u
Cth4  t3      0               199.127u
Cth5  t4      0               666.043m
Cth6  Tcase   0               30m

.ENDS

**********

.SUBCKT BSZ0909NS drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 Ls=0.3n Ld=1n Lg=3n

.PARAM Rs=935u      Rg=3         Rd=50u       Rm=520u
.PARAM Inn=20       Unn=4.5      Rmax=15m     gmin=18
.PARAM RRf=498m     Rrbond=23m   Rtb=7.4      g2=964m
.PARAM act=0.825

.FUNC   Pb(I,dT,Rb)  {Rb/(2*Rtb)*(I-limit(dT/(max(I,1n)*Rb)+RRf*I*g2,0,I))**2}

X1  d1 g s Tj S4_34_m_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}
Rsb   source s1    10
Rga   gate   g1    10
Rdb   drain  d2    10

G_TH  0    Tb  VALUE =  {Pb(abs(I(Ls)),V(Tj,Tcase),Rrbond*(1+(limit((V(Tb)+V(Tj))/2,-200,999)-25)*4m))}
Cthb  Tb      0               1.71m
Rthb  Tb      Tj              {Rtb} 
Rth1  Tj      t1              {31.9m+limit(Zthtype,0,1)*11.81m}
Rth2  t1      t2              {379.09m+limit(Zthtype,0,1)*140.29m}
Rth3  t2      t3              {1.31+limit(Zthtype,0,1)*545.6m}
Rth4  t3      t4              {1.78+limit(Zthtype,0,1)*310.74m}
Rth5  t4      Tcase           {502.8m+limit(Zthtype,0,1)*87.77m}
Cth1  Tj      0               5.743u
Cth2  t1      0               36.906u
Cth3  t2      0               275.087u
Cth4  t3      0               145.381u
Cth5  t4      0               3m
Cth6  Tcase   0               10m

.ENDS

**********

.SUBCKT BSC0909NS drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 Ls=0.3n Ld=1n Lg=3n

.PARAM Rs=414u      Rg=3         Rd=50u       Rm=222u
.PARAM Inn=20       Unn=4.5      Rmax=11.8m   gmin=20.45

.PARAM act=0.979



X1  d1 g s Tj S4_34_m_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}
Rsb   source s1    10
Rga   gate   g1    10
Rdb   drain  d2    10




Rth1  Tj      t1              {26.89m+limit(Zthtype,0,1)*9.95m}
Rth2  t1      t2              {323.87m+limit(Zthtype,0,1)*119.86m}
Rth3  t2      t3              {1.12+limit(Zthtype,0,1)*463.25m}
Rth4  t3      t4              {1.49+limit(Zthtype,0,1)*387.27m}
Rth5  t4      Tcase           {522.98m+limit(Zthtype,0,1)*135.93m}
Cth1  Tj      0               6.815u
Cth2  t1      0               43.198u
Cth3  t2      0               318.113u
Cth4  t3      0               172.518u
Cth5  t4      0               3m
Cth6  Tcase   0               30m

.ENDS

**********

.SUBCKT BSC0908NS_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0.3n Ld=1n Lg=3n

.PARAM Rs=449u      Rg=3         Rd=50u       Rm=210u
.PARAM Inn=30       Unn=10       Rmax=8m      gmin=27
.PARAM act=1.13

X1  d1 g s Tj S4_34_h_var1 PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

Rs  source s1 5
Rd  drain  d1 5

.ENDS

**********

.SUBCKT BSZ0909NS_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0.3n Ld=1n Lg=3n

.PARAM Rs=935u      Rg=3         Rd=50u       Rm=520u
.PARAM Inn=20       Unn=4.5      Rmax=15m     gmin=18
.PARAM act=0.825

X1  d1 g s Tj S4_34_m_var1 PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

Rs  source s1 5
Rd  drain  d1 5

.ENDS

**********

.SUBCKT BSC0909NS_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0.3n Ld=1n Lg=3n

.PARAM Rs=414u      Rg=3         Rd=50u       Rm=222u
.PARAM Inn=20       Unn=4.5      Rmax=11.8m   gmin=20.45
.PARAM act=0.979

X1  d1 g s Tj S4_34_m_var1 PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

Rs  source s1 5
Rd  drain  d1 5

.ENDS

**********

.SUBCKT BSC0908NS_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   0.3n
Rs      s1    s2   449u
Rs1    source s1 5
Rd1    drain  d1 5

Rg     g1    g2     3
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 120  VTO=2.62  THETA=0  VMAX=1.5e5  ETA=0.015  LEVEL=3)
Rd     d1    d2    5.49m TC=7m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=38   M=0.3  CJO=1.19n  VJ=0.9V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=8.6p  N=1.1  RS=0.44u  EG=1.12  TT=3n)
Rdiode  d1  21    1.94m TC=10m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.24n
.MODEL     DGD    D(M=0.6   CJO=0.24n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    0.98n

.ENDS  BSC0908NS_L0

******

.SUBCKT BSZ0909NS_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   0.3n
Rs      s1    s2   935u
Rs1    source s1 5
Rd1    drain  d1 5

Rg     g1    g2     3
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 110  VTO=2.55  THETA=0  VMAX=1.5e5  ETA=0.011  LEVEL=3)
Rd     d1    d2    7.08m TC=7m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=38   M=0.3  CJO=0.92n  VJ=0.9V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=5.8p  N=1.11  RS=0.61u  EG=1.12  TT=3n)
Rdiode  d1  21    2.55m TC=10m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.23n
.MODEL     DGD    D(M=0.6   CJO=0.23n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    0.95n

.ENDS  BSZ0909NS_L0

******

.SUBCKT BSC0909NS_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   0.3n
Rs      s1    s2   414u
Rs1    source s1 5
Rd1    drain  d1 5

Rg     g1    g2     3
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 132  VTO=2.55  THETA=0  VMAX=1.5e5  ETA=0.011  LEVEL=3)
Rd     d1    d2    5.97m TC=7m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=38   M=0.3  CJO=1.06n  VJ=0.9V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=6.9p  N=1.11  RS=0.51u  EG=1.12  TT=3n)
Rdiode  d1  21    2.15m TC=10m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.27n
.MODEL     DGD    D(M=0.6   CJO=0.27n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    1.13n

.ENDS  BSC0909NS_L0

******
